US07375133B2
Lactucaxanthin;
Neocarotene; Neochrome; Neo-β-carotene B; Neo-β-cryptoxanthin A; Neoxanthin; Neoxanthin 3-acetate; Neurosporaxanthin; Neurosporaxanthin methyl ester; Neurosporene; Nonaprenoxanthin; 2′-Nor-astaxanthin diester; Norbixin; Nostoxanthin;

reactant | Neochrome | C/C(=C\C=C\C=C(/C)\C=C\C=C(\C)/C1C=C2[C@](O1)(C[C@H](CC2(C)C)O)C)/C=C/C=C(\C)/C=C=C3[C@](C[C@H](CC3(C)C)O)(C)O | C40H56O4
reactant | Neo-β-carotene B | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/C=C/C=C(/C)\C=C\C=C(/C)\C=C\C2=C(CCCC2(C)C)C)/C)/C | C40H56
reactant | Neoxanthin | C/C(=C\C=C\C=C(/C)\C=C\C=C(/C)\C=C=C1[C@](C[C@H](CC1(C)C)O)(C)O)/C=C/C=C(\C)/C=C/[C@]23[C@](O2)(C[C@H](CC3(C)C)O)C | C40H56O4
reactant | Neurosporaxanthin | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/C=C/C=C(\C)/C=C/C=C(\C)/C=C/C=C(\C)/C(=O)O)/C)/C | C35H46O2
reactant | Neurosporaxanthin methyl ester | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/C=C/C=C(\C)/C=C/C=C(\C)/C=C/C=C(\C)/C(=O)OC)/C)/C | C36H48O2
reactant | Neurosporene | CC(=CCC/C(=C/CC/C(=C/C=C/C(=C/C=C/C=C(\C)/C=C/C=C(\C)/C=C/C=C(\C)/CCC=C(C)C)/C)/C)/C)C | C40H58
reactant | Nonaprenoxanthin | CC1=CCC(C([C@H]1/C=C/C(=C/C=C/C(=C/C=C/C=C(\C)/C=C/C=C(\C)/C=C/C=C(\C)/CCC=C(C)C)/C)/C)(C)C)C/C=C(\C)/CO | C45H64O
reactant | Norbixin | C/C(=C\C=C\C=C(\C=C\C=C(\C=C\C(=O)O)/C)/C)/C=C/C=C(/C=C/C(=O)O)\C | C24H28O4
reactant | Nostoxanthin | CC1=C(C([C@H]([C@@H](C1)O)O)(C)C)/C=C/C(=C/C=C/C(=C/C=C/C=C(/C=C/C=C(/C=C/C2=C(C[C@H]([C@@H](C2(C)C)O)O)C)\C)\C)/C)/C | C40H56O4
product | Lactucaxanthin | CC1=C[C@@H](CC([C@H]1/C=C/C(=C/C=C/C(=C/C=C/C=C(/C=C/C=C(/C=C/[C@@H]2C(C[C@H](C=C2C)O)(C)C)\C)\C)/C)/C)(C)C)O | C40H56O2
